US07262185B2
(2-methyl-4-nitrophenyl)(pyridin-2-yl)methanol (0.83 g) was dissolved in ethanol (50 ml), and the solution was reduced by catalytic hydrogenation overnight with 10% palladium-carbon of 50% hydration (50 mg). The catalyst was removed, and the solvent of the filtrate was distilled off and the residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/hexane), to give (4-amino-2-methylphenyl)(pyridin-2-yl)methanol (0.42 g) as colorless crystals.

reactant | (2-methyl-4-nitrophenyl)(pyridin-2-yl)methanol | 0.83 g | CC1=C(C=CC(=C1)[N+](=O)[O-])C(O)C1=NC=CC=C1 | C13H12N2O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | (4-amino-2-methylphenyl)(pyridin-2-yl)methanol | 0.42 g | NC1=CC(=C(C=C1)C(O)C1=NC=CC=C1)C | C13H14N2O
